US06426345B1
4N Aqueous solution of sodium hydroxide (2 ml) was added to a solution of ethyl 3-(benzoylamino)benzoate (695 mg) in ethanol (5 ml) and 1,4-dioxane (5 ml). After stirred at 50° C. for 1 hour, the mixture was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with dilute hydrochloric acid and brine, dried over magnesium sulfate and concentrated to give 3-(benzoylamino)benzoic acid (595 mg) as solid.

reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | ethyl 3-(benzoylamino)benzoate | 695 mg | C(C1=CC=CC=C1)(=O)NC=1C=C(C(=O)OCC)C=CC1 | C16H15NO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-(benzoylamino)benzoic acid | 595 mg | C(C1=CC=CC=C1)(=O)NC=1C=C(C(=O)O)C=CC1 | C14H11NO3
